US09227973B2
To a stirred solution of 3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-5′-carboxylic acid (4.50 g, 17.3 mmol) in MeOH (500 mL) was added conc. H2SO4 (1 mL, 18 mmol) and the resulting mixture was heated at reflux for 24 h. The reaction mixture was concentrated in vacuo to a volume of about 150 mL and then partitioned between saturated aqueous sodium bicarbonate (200 mL) and CHCl3 (500 mL). The aqueous layer was extracted further with CHCl3 (250 mL). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated to dryness in vacuo to give the racemic product. Separation of the enantiomers was achieved by SFC on a ChiralPak AD-H column, eluting with CO2:i-PrOH-70:30, to give methyl (4S)-3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-5′-carboxylate, the title compound, as the first major peak, and methyl (4R)-3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-5′-carboxylate as the second major peak. MS: m/z=274.9 (M+1).

reactant | 3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-5′-carboxylic acid | 17.3 mmol, 4.50 g | CN1C(NC(C12CC1=CC=C(C=C1C2)C(=O)O)=O)=O | C13H12N2O4
reactant | H2SO4 | 18 mmol, 1 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 500 mL | CO | CH4O
product | methyl (4S)-3-methyl-2,5-dioxo-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-5′-carboxylate | CN1C(NC([C@@]12CC1=CC=C(C=C1C2)C(=O)OC)=O)=O | C14H14N2O4
